US06897227B2
Methyl 2-[4-(chlorosulfonyl)phenoxy]acetate (Intermediate A22)
Methyl phenoxyacetate (99.9 g, 0.6 mol) was added dropwise to chlorosulfonic acid (279.6 g, 159.5 mL, 2.4 mol) at −5° C. at such a rate to maintain internal temperature between 0 to −5° C. (addition took about 60 min). Some solid formed during this addition. The cooling bath was removed and the reaction mixture was stirred at room temperature for an additional 1.5 hr. The reaction mixture was poured into a vigorously stirring mixture of dichloromethane (900 mL) and methanol (100 mL) at 0° C. After 15 min the cooling bath was removed and the resulting mixture was stirred at room temperature for 1 hr. The resulting mixture was washed with ice cold water (2×250 mL). The combined aqueous layers were back extracted with dichloromethane (1×250 mL). The combined organic layers were washed with brine (1×200 mL), dried over anhydrous magnesium sulfate (15 g) and concentrated under reduced pressure to give 132 g (83%) of the title compound as a white solid.

reactant | Methyl phenoxyacetate | 0.6 mol, 99.9 g | O(C1=CC=CC=C1)CC(=O)OC | C9H10O3
reactant | chlorosulfonic acid | 2.4 mol, 159.5 mL, 279.6 g | ClS(=O)(=O)O | ClHO3S
product | Methyl 2-[4-(chlorosulfonyl)phenoxy]acetate | 132 g, 83% | ClS(=O)(=O)C1=CC=C(OCC(=O)OC)C=C1 | C9H9ClO5S
